US06310056B1
To a solution of 848.8 mg of 848.8 mg of 4-nitrobenzyl (5R,6S)-2-(7-t-butyldimethylsilyloxymethylimidazo[5,1-b]thiazol-3-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate in 20 ml of THF was added 1.22 ml of acetic acid and 7.1 ml of a 1 M solution of tetra-n-butylammonium fluoride in THF, and the mixture was stirred at room temperature for 2.5 hours. After neutralizing the mixture with a saturated aqueous sodium hydrogen carbonate solution, it was extracted two times with ethyl acetate, washed with semi-saturated aqueous saline, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (ethyl acetate:methanol=9:1) to give 324.3 mg of 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-hydroxymethylimidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate.

reactant | 4-nitrobenzyl (5R,6S)-2-(7-t-butyldimethylsilyloxymethylimidazo[5,1-b]thiazol-3-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate | 848.8 mg | [Si](C)(C)(C(C)(C)C)OCC=1N=CN2C1SC=C2C=2C[C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O | C28H34N4O7SSi
reactant | acetic acid | 1.22 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-hydroxymethylimidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate | 324.3 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=C(N=C3)CO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C22H20N4O7S
